US05128356
2-Hydroxyethyl 2-butyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate
To a solution of ethyl 2-butyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate (0.72 g) in ethylene glycol (15 ml) was added, while stirring at room temperature, sodium hydride (60% oil, 0.25 g) and the mixture was stirred at room temperature for 15 hours. To the reaction mixture was added ice-water (100 ml), which was made acidic with formic acid. Precipitates then formed were dissolved in ethyl acetate (100 ml) and the solution was washed with water, dried and concentrated to dryness to give a crystalline product. The crystals were recrystallized from acetone to afford colorless crystals (0.49 g, 66%), m.p. 145°-147° C.

reactant | ethyl 2-butyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate | 0.72 g | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)OCC | C28H28N6O2
reactant | sodium hydride | 0.25 g | [H-].[Na+]
reactant | formic acid | C(=O)O | CH2O2
solvent | ethylene glycol | 15 ml | C(CO)O | C2H6O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2-Hydroxyethyl 2-butyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate | 0.49 g, 66% | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)OCCO | C28H28N6O3
